US06310086B1
To a solution of potassium carbonate (32.3 g) in distilled water(120 ml) was added ethyl acetate (120 ml), and (R)-3-[5-(2-aminopropyl)-7-cyano-2,3-dihydro-1H-indol-1-yl]propyl benzoate L-tartrate (12.0 g) was added portionwise to the mixture with stirring. After reaction for 1 hour, the reaction mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with 10% aqueous potassium carbonate solution and brine subsequently, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give (R)-3-[5-(2-aminopropyl)-7-cyano-2,3-dihydro-1H-indol-1-yl]propyl benzoate (8.98 g) as a brown oil.

reactant | potassium carbonate | 32.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
reactant | (R)-3-[5-(2-aminopropyl)-7-cyano-2,3-dihydro-1H-indol-1-yl]propyl benzoate L-tartrate | 12.0 g | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.C(C1=CC=CC=C1)(=O)OCCCN1CCC2=CC(=CC(=C12)C#N)C[C@@H](C)N
solvent | water | 120 ml | O | H2O
product | (R)-3-[5-(2-aminopropyl)-7-cyano-2,3-dihydro-1H-indol-1-yl]propyl benzoate | 8.98 g | C(C1=CC=CC=C1)(=O)OCCCN1CCC2=CC(=CC(=C12)C#N)C[C@@H](C)N | C22H25N3O2
